US05498788
The inclusion complex (100 g) of clavulanic acid with heptakis-(2,3,6-tri-O-acetyl)-β-CD, which was prepared in the same way as in Example 4, was suspended in a 3% aqueous potassium carbonate solution (200 ml), in which methyl-β-CD (53.6 g, 40.9 mmol) was dissolved. The suspension was stirred for 5 min at ambient temperature, the solid particles were filtered off and the filtrate was frozen in liquid nitrogen and then freeze-dried. There was obtained a yellowish microcrystalline inclusion complex (56.7 g, 91.9%) of potassium clavulanate with methyl-β-CD. The complex contained 14.9% of potassium clavulanate as it was determined by the HPLC method.

reactant | clavulanic acid | 100 g | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)O | C8H9NO5
reactant | potassium carbonate | 200 ml | C([O-])([O-])=O.[K+].[K+]
product | potassium clavulanate | 56.7 g, 91.9% | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)[O-].[K+] | InChI=1S/C8H9NO5.K/c10-2-1-4-7(8(12)13)9-5(11)3-6(9)14-4;/h1,6-7,10H,2-3H2,(H,12,13);/q;+1/p-1/b4-1-;/t6-,7-;/m1./s1
